US06878721B1
(R)-8-hydroxy5-[2-(4,7-Dimethoxy-indan-2-ylamino)-1-hydroxy-ethyl]-1H-quinolin-2-one hydrochloride
(R)-8-Benzyloxy-5-[2-(4,7-dimethoxy-indan-2-ylamino)-1-hydroxy-ethyl]-1H-quinolin-2-one (37 mg, 0.08 mmol) is dissolved in methanol (10 mL) and the compound is deprotected by adding a catalytic amount of 10% palladium on charcoal and placing the solution under an atmosphere of hydrogen. The reaction is shown to be complete by TLC after 4 hours. The catalyst is filtered off, 1M HCl/diethyl ether (1.1 equivalent) is added and the solvent is removed in vacuo. TLC (silica, dichloromethane/methanol 10:1 Rf=0.15). ES+ MS m/e 397 (MH+).

reactant | (R)-8-Benzyloxy-5-[2-(4,7-dimethoxy-indan-2-ylamino)-1-hydroxy-ethyl]-1H-quinolin-2-one | 0.08 mmol, 37 mg | C(C1=CC=CC=C1)OC=1C=CC(=C2C=CC(NC12)=O)[C@H](CNC1CC2=C(C=CC(=C2C1)OC)OC)O | C29H30N2O5
reactant | HCl diethyl ether | 1M, 1.1 equivalent | Cl.C(C)OCC
solvent | methanol | 10 mL | CO | CH4O
catalyst | palladium on charcoal | [Pd] | Pd
product | (R)-8-hydroxy5-[2-(4,7-Dimethoxy-indan-2-ylamino)-1-hydroxy-ethyl]-1H-quinolin-2-one hydrochloride | Cl.OC=1C=CC(=C2C=CC(NC12)=O)[C@H](CNC1CC2=C(C=CC(=C2C1)OC)OC)O | InChI=1S/C22H24N2O5.ClH/c1-28-19-6-7-20(29-2)16-10-12(9-15(16)19)23-11-18(26)13-3-5-17(25)22-14(13)4-8-21(27)24-22;/h3-8,12,18,23,25-26H,9-11H2,1-2H3,(H,24,27);1H/t18-;/m0./s1
